US04880939
Under argon atmosphere, a solution of n-butyllithium in hexane (1.71N, 29.8 ml, 0.051 mol) was dropwise added to a solution of dimethyl methylphosphonate (6.32 g, 0.051 mol) in anhydrous THF (120 ml) with stirring at -78° C., and the mixture was stirred for 30 minutes. At -78° C., a solution of ethyl 2-methyl-4-nonynoate (4.0 g, 0.02 mol) in anhydrous THF (10 ml) was dropwise added, and the mixture was stirred for 30 minutes. Acetic acid (3.1 ml) and water (20 ml) were then added to the reaction mixture at 0° C. After concentration, water (20 ml) was added to the residue and the resulting mixture was extracted with ethyl acetate (50 ml×2). The ethyl acetate layers were combined, washed with water (20 ml) and with brine (20 ml), and dried over anhydrous sodium sulfate to concentrate. Vacuum distillation of the residue (b.p.=128°-130° C. at 0.16 mmHg) gave dimethyl 3-methyl-2-oxo-5-decynylphosphonate as a colorless, transparent oil (4.75 g, 0.0173 mol, 85% yield). The structure of this product was confirmed by the following data.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.051 mol, 1.71N, 29.8 ml | CCCCCC | C6H14
reactant | dimethyl methylphosphonate | 0.051 mol, 6.32 g | CP(OC)(OC)=O | C3H9O3P
reactant | ethyl 2-methyl-4-nonynoate | 0.02 mol, 4.0 g | CC(C(=O)OCC)CC#CCCCC | C12H20O2
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | Acetic acid | 3.1 ml | C(C)(=O)O | C2H4O2
product | dimethyl 3-methyl-2-oxo-5-decynylphosphonate | CC(C(CP(OC)(OC)=O)=O)CC#CCCCC | C13H23O4P
